US05864039
3-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)propylamine (1.1 g) as starting compound was reacted and treated in the same manner as in Example 34 using n-propyl isocyanate (0.40 ml) and 4-amino-5-chloro-2-methoxybenzoic acid (0.87 g) to give 4-amino-5-chloro-2-methoxy-N-(1-(3-(3-n-propylureido)propyl)pyrrolidin-3-ylmethyl)benzamide.

reactant | 3-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)propylamine | 1.1 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCN | C13H27N3O2
reactant | n-propyl isocyanate | 0.40 ml | C(CC)N=C=O | C4H7NO
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.87 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-5-chloro-2-methoxy-N-(1-(3-(3-n-propylureido)propyl)pyrrolidin-3-ylmethyl)benzamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCCNC(=O)NCCC)C=C1Cl)OC | C20H32ClN5O3
